* source ECG
V_V2         VCC 0 10
V_V3         0 VEE 10
R_R8         0 N01557  10k TC=0,0 
R_R5         N01557 N01499  100k TC=0,0 
X_U1B         N01553 N01557 VCC VEE N01499 TL084
R_R9         N01535 N01499  470k TC=0,0 
C_C3         N01605 N01535  10u  TC=0,0 
C_C4         N01535 N01553  10u  TC=0,0 
R_R10         0 N01553  150k TC=0,0 
R_R1         N02748 N01605  100k TC=0,0 
C_C2         N01605 N02726  10n  TC=0,0 
X_U1A         N02744 N02748 VCC VEE N01605 TL084
R_R2         N02726 N02744  13k TC=0,0 
R_R3         N02796 N02726  100k TC=0,0 
C_C1         0 N02744  100n  TC=0,0 
R_R4         0 N02748  10k TC=0,0 
X_U1C         N03235 N03294 VCC VEE N03321 TL084
R_R11         N01499 N03249  68k TC=0,0 
R_R12         N03294 N03321  10k TC=0,0 
R_R13         N01499 N03294  10k TC=0,0 
R_R14         0 N03235  68k TC=0,0 
C_C5         N03321 N03249  47n  TC=0,0 
C_C6         N01499 N03235  47n  TC=0,0 
X_U2         N05572 0 VCC VEE N02796 0 N05434 N05472 AD620/AD
R_R15         N05472 N05434  6.8k TC=0,0 
V_V5         N05572 0  AC 1m
+SIN 0 1m 2 0 0 0
