* source ECG
X_U1A         N00248 N00331 VCC VEE N00307 TL084
R_R1         N00262 N00248  16k TC=0,0 
R_R2         0 N00262  68k TC=0,0 
R_R3         N00331 N00307  100k TC=0,0 
R_R4         0 N00331  10k TC=0,0 
C_C1         N00262 N00307  10n  TC=0,0 
C_C2         0 N00248  100n  TC=0,0 
V_V2         0 VEE 10Vdc
V_V3         VCC 0 10Vdc
R_R7         N01528 N01510  100k TC=0,0 
X_U1B         N01462 N01528 VCC VEE N01510 TL084
R_R8         0 N01528  10k TC=0,0 
R_R9         N01492 N01510  1000k TC=0,0 
R_R10         N01462 0  100k TC=0,0 
C_C3         N00307 N01492  10u  TC=0,0 
C_C4         N01492 N01462  10u  TC=0,0 
X_U2B         N02754 N02750 VCC VEE N02734 TL084
R_R11         N01510 N02738  68k TC=0,0 
R_R12         N02750 N02734  10k TC=0,0 
R_R13         N01510 N02750  10k TC=0,0 
R_R14         0 N02754  68k TC=0,0 
C_C5         N02734 N02738  47n  TC=0,0 
C_C6         N01510 N02754  47n  TC=0,0 
X_U3         N04323 N04332 VCC VEE 0 0 N03815 N03822 AD620/AD
X_U4A         0 N03853 VCC VEE N03920 TL084
R_R15         N03853 N03815  22k TC=0,0 
R_R16         N03853 N03822  22k TC=0,0 
R_R17         N03822 N03815  10k TC=0,0 
R_R18         N03853 N04165  10k TC=0,0 
R_R19         N03853 N03920  1meg TC=0,0 
R_R20         N03920 0  220k TC=0,0 
C_C7         N03920 N04165  100n  TC=0,0 
R_R21         0 N04332  220k TC=0,0 
R_R22         N04491 N04323  220k TC=0,0 
V_V4         N04491 0  AC 1m
+SIN 0 1m 100 0 0 0
